US04996247
bis-(4-hydroxyphenyl)cyclohexylmethane;
1,2-bis-(4-hydroxyphenyl)-1,2-bis-(phenyl)propane; 2,2-bis-(4-hydroxyphenyl)-1-phenylpropane; and the like. Also included are dihydroxybenzenes typified by hydroquinone and resorcinol, dihydroxydiphenyls such as 4,4'-dihydroxydiphenyl; 2,2'-dihydroxydiphenyl; 2,4'-dihydroxydiphenyl; dihydroxy-naphthalenes such as 2,6-dihydroxynaphthalene, etc.

reactant | 1,2-bis-(4-hydroxyphenyl)-1,2-bis-(phenyl)propane | OC1=CC=C(C=C1)C(C(C)(C1=CC=CC=C1)C1=CC=C(C=C1)O)C1=CC=CC=C1 | C27H24O2
reactant | 2,2-bis-(4-hydroxyphenyl)-1-phenylpropane | OC1=CC=C(C=C1)C(CC1=CC=CC=C1)(C)C1=CC=C(C=C1)O | C21H20O2
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | resorcinol | C1(O)=CC(O)=CC=C1 | C6H6O2
reactant | 2,6-dihydroxynaphthalene | OC1=CC2=CC=C(C=C2C=C1)O | C10H8O2
product | bis-(4-hydroxyphenyl)cyclohexylmethane | OC1=CC=C(C=C1)C(C1CCCCC1)C1=CC=C(C=C1)O | C19H22O2
